US08314085B2
(1) 4-Chloro-N-(4-chloro-5-pyrimidinyl)-3-cyanobenzamide
4-Chloro-3-cyanobenzoic acid (7.01 g, 38.6 mmol) was suspended in benzene (70 mL). Thionyl chloride (3.6 mL, 49.6 mmol) was added to the suspension, and the mixture was refluxed with heating for 4 hours. The reaction liquid was condensed under reduced pressure. 5-Amino-4-chloropyrimidine (5.00 g, 38.6 mmol), dichloromethane (70 mL), and pyridine (3.6 mL, 44.5 mmol) were added to the obtained acid chloride. The mixture was stirred at room temperature for 7 hours. Chloroform (50 mL) and water (50 mL) was added to the reaction solution to filtrate crystals. The obtained crystals were washed with chloroform (20 mL) and water (20 mL), and air-dried to obtain 7.35 g (yield: 65%) of the subject compound as white crystals. Further, 0.62 g (yield: 8%) of the subject compound was obtained from a mixed solution of mother liquid and washings as pale brown crystals (secondary crystals). The total yield was 73%.

reactant | 4-Chloro-3-cyanobenzoic acid | 38.6 mmol, 7.01 g | ClC1=C(C=C(C(=O)O)C=C1)C#N | C8H4ClNO2
reactant | Thionyl chloride | 49.6 mmol, 3.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-Amino-4-chloropyrimidine | 38.6 mmol, 5.00 g | NC=1C(=NC=NC1)Cl | C4H4ClN3
reactant | pyridine | 44.5 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
solvent | water | 50 mL | O | H2O
solvent | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 4-Chloro-N-(4-chloro-5-pyrimidinyl)-3-cyanobenzamide | 7.35 g, yield: 65% | ClC1=C(C=C(C(=O)NC=2C(=NC=NC2)Cl)C=C1)C#N | C12H6Cl2N4O
